US04144349
1,2,4,5,6,7-Hexahydrothiocino[5,4-b]indole
A mixture of 7.2g (0.05 mole) of 1-thiacyclooctane-5-one and 6.0g (0.056 mole) of phenylhydrazine in 40 ml of glacial acetic acid is refluxed for three hours under nitrogen. On standing there is deposited 5.2g of a solid, m.p. 106°-107° C. Recrystallization from cyclohexane affords 4.9g (45%) of an analytical sample m.p. 109°-110° C.

reactant | 1-thiacyclooctane-5-one | 0.05 mole, 7.2g | S1CCCC(CCC1)=O | C7H12OS
reactant | phenylhydrazine | 0.056 mole, 6.0g | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1,2,4,5,6,7-Hexahydrothiocino[5,4-b]indole | C1CSCCCC=2NC=3C=CC=CC3C21 | C13H15NS
